US07157473B2
A mixture of 3-amino-5-ethynylpyridine (20.73 g, 23.1 mmol) and triethylamine (3.54 mL, 25.42 mmol) in dichloromethane was cooled in an ice bath. A solution of dichloroacetyl chloride (2.57 mL, 25.42 mmol) in dichloromethane was added dropwise. After stirring for one more hour, water and ethyl acetate were added. The organic layer was separated, washed with saturated sodium hydrogen carbonate, dried over sodium sulfate, filtered and concentrated in vacuo to yield 3-(2,2-dichloroacetamido)-5-ethynylpyridine (3.5 g).

reactant | 3-amino-5-ethynylpyridine | 23.1 mmol, 20.73 g | NC=1C=NC=C(C1)C#C | C7H6N2
reactant | triethylamine | 25.42 mmol, 3.54 mL | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | 25.42 mmol, 2.57 mL | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2,2-dichloroacetamido)-5-ethynylpyridine | 3.5 g | ClC(C(=O)NC=1C=NC=C(C1)C#C)Cl | C9H6Cl2N2O
